US09079892B2
Preparation of (S)—N-((2-oxo-3-(4-(3-oxomorpholino)phenyl)oxazolidin-5-yl)methyl)benzylamine (Compound I, wherein R is benzylamino)
(S)—N-benzyl-1-(oxiran-2-ylmethyl)methylamine (3.10 g, 19.06 mmol, 1.1 eq.) and 4-(4-isocyanatophenyl)morpholin-3-one (3.77 g, 17.29 mmol) were dissolved in butanone (70 mL) respectively, and heated to reflux. Then lithium bromide (0.15 g, 1.74 mmol) was added, the mixture was reacted for 4 h, white solid was obtained by filtration (5.88 g, yield: 89.21%).

reactant | (S)—N-benzyl-1-(oxiran-2-ylmethyl)methylamine | 19.06 mmol, 3.10 g, 1.1 eq. | C(C1=CC=CC=C1)NCC[C@@H]1OC1 | C11H15NO
reactant | 4-(4-isocyanatophenyl)morpholin-3-one | 17.29 mmol, 3.77 g | N(=C=O)C1=CC=C(C=C1)N1C(COCC1)=O | C11H10N2O3
reactant | lithium bromide | 1.74 mmol, 0.15 g | [Br-].[Li+]
reactant | butanone | 70 mL | CC(CC)=O | C4H8O
product | (S)—N-((2-oxo-3-(4-(3-oxomorpholino)phenyl)oxazolidin-5-yl)methyl)benzylamine | yield: 89.21% | O=C1O[C@H](CN1C1=CC=C(C=C1)N1C(COCC1)=O)CNCC1=CC=CC=C1 | C21H23N3O4
